US07173031B2
C) 4-(2-Fluoro-4-nitrophenoxy)-6-(2-morpholinopyridin-4-yl)pyrrolo[2,1-f][1,2,4]triazine
To a suspension of the crude 4-chloro-6-(2-morpholinopyridin-4-yl)pyrrolo[2,1-f][1,2,4]triazine in MeCN (5 mL) were added 2-fluoro-4-nitrophenol (59 mg, 0.37 mmol) and DABCO (45 mg, 0.4 mmol). The reaction mixture was stirred at room temperature for 2 h. The solvent was removed in vacuo and the residue was purified by flash column chromatography (ISCO RediSep® silica gel cartridge) to give the desired compound (54 mg, 33% yield in two steps). MS(ESI) m/z 437.2 (M+H)+.

reactant | 4-chloro-6-(2-morpholinopyridin-4-yl)pyrrolo[2,1-f][1,2,4]triazine | ClC1=NC=NN2C1=CC(=C2)C2=CC(=NC=C2)N2CCOCC2 | C15H14ClN5O
reactant | 2-fluoro-4-nitrophenol | 0.37 mmol, 59 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | DABCO | 0.4 mmol, 45 mg | C1CN2CCN1CC2 | C6H12N2
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 4-(2-Fluoro-4-nitrophenoxy)-6-(2-morpholinopyridin-4-yl)pyrrolo[2,1-f][1,2,4]triazine | 54 mg, 33% yield | FC1=C(OC2=NC=NN3C2=CC(=C3)C3=CC(=NC=C3)N3CCOCC3)C=CC(=C1)[N+](=O)[O-] | C21H17FN6O4
